US04728663
(E)-N-[4-(1H-Imidazol-1-yl)-2-butenyl]benz[cd]indol-2-amine, monohydroiodide
A mixture of 5.0 g of (E)-4-(1H-imidazol-1-yl)-2-butenamine, 11.5 g of 2-(methylthio)benz[cd]indole hydroiodide and 400 ml of ethanol was stirred and heated at reflux for 16 hours, then clarified while hot. The filtrate was concentrated to 250 ml, cooled to -10° C. and the resulting solid collected, washed with ethanol, ether and dried at 60° C. in vacuo, giving 9.3 g of the desired product, mp 152°-155° C. (dec.).

reactant | (E)-4-(1H-imidazol-1-yl)-2-butenamine | 5.0 g | N1(C=NC=C1)C/C=C/CN | C7H11N3
reactant | 2-(methylthio)benz[cd]indole hydroiodide | 11.5 g | I.CSC1=NC2=CC=CC=3C2=C1C=CC3
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | (E)-N-[4-(1H-Imidazol-1-yl)-2-butenyl]benz[cd]indol-2-amine, monohydroiodide | 9.3 g | I.N1(C=NC=C1)C/C=C/CNC1=NC2=CC=CC=3C2=C1C=CC3 | InChI=1S/C18H16N4.HI/c1(2-11-22-12-10-19-13-22)9-20-18-15-7-3-5-14-6-4-8-16(21-18)17(14)15;/h1-8,10,12-13H,9,11H2,(H,20,21);1H/b2-1+;
